US04751245
A mixture of 1-naphthalenemethanamine (1.34 g, 8.51 mmol) and 6,6-dimethyl-2-hepten-4-ynal (1.16 g, 8.51 mmol) in 20 ml of dry ethyl ether was stirred over 4A sieves overnight. Sieve material was then removed by centrifugation, washed once with ethyl ether and the combined ether fractions concentrated to afford the crude condensed product. About 8.08 mmol of this material was stirred with sodium borohydride (343 mg, 9.06 mmol) in 20 ml of methanol at room temperature for 3.75 hours. The reaction mixture was partitioned between aqueous sodium bicarbonate and methylene chloride, the aqueous layer extracted twice with methylene chloride, and the combined organic solution washed with water and dried over magnesium sulfate. Removal of the solvent afforded N-(6,6-dimethyl-2-hepten-4-ynyl)-1-naphthalenemethanamine as a mixture of the E and Z isomers. Flash chromatography of this product on silica gel (5 cm column, eluting with 0.2% triethylamine in chloroform) afforded 0.74 g of the pure (E)-N-6,6-dimethyl-2-hepten-4-ynyl)-1-naphthalenemethanamine.

reactant | 1-naphthalenemethanamine | 8.51 mmol, 1.34 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | 6,6-dimethyl-2-hepten-4-ynal | 8.51 mmol, 1.16 g | CC(C#CC=CC=O)(C)C | C9H12O
reactant | sodium borohydride | 9.06 mmol, 343 mg | [BH4-].[Na+]
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
product | N-(6,6-dimethyl-2-hepten-4-ynyl)-1-naphthalenemethanamine | CC(C#CC=CCNCC1=CC=CC2=CC=CC=C12)(C)C | C20H23N
